US09403818B2
Preparation of ethyl 8-(3-amino-phenyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Ethyl 8-(3-amino-phenyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from ethyl 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (102.5 mg, 0.32 mmol) and (3-amino-phenyl)-boronic acid (54.8 mg, 0.40 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 9:1) afforded the title compound as a yellow solid (30 mg, 25%).

reactant | ethyl 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.32 mmol, 102.5 mg | ClC=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OCC)=O)F | C16H15ClFNO3
reactant | (3-amino-phenyl)-boronic acid | 0.40 mmol, 54.8 mg | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
product | ethyl 8-(3-amino-phenyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 30 mg, 25% | NC=1C=C(C=CC1)C=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OCC)=O)F | C22H21FN2O3
